*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7T(-55to125[deg])/2.20e+00[uF]/16[V]
* Murata P/N :GRM155D71C225ME11
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155D71C225ME11 Port1 Port2
C01 Port1 N01 1.71e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.20e-10
R03 N02 N03 5.64e-03
C04 N03 N04 2.57e-05
R04 N03 N04 2.66e+02
C05 N04 N05 7.73e-05
R05 N04 N05 5.19e+00
C06 N05 N06 7.30e-05
R06 N05 N06 5.41e-01
C07 N06 N07 5.88e-05
R07 N06 N07 6.75e-02
C08 N07 N08 4.00e-05
R08 N07 N08 1.02e-02
L09 N08 N09 2.92e-11
R09 N08 N09 7.15e-02
L10 N09 N10 1.78e-10
R10 N09 N10 2.68e-02
C11 N10 N11 5.41e-06
L11 N10 N11 3.52e-11
R11 N10 N11 3.04e-03
C12 N11 N12 3.21e-06
L12 N11 N12 3.09e-11
R12 N11 N12 3.44e-03
C13 N12 Port2 2.57e-12
L13 N12 Port2 6.48e-11
R13 N12 Port2 1.16e+01
.ENDS GRM155D71C225ME11
